data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_690481_0,[C:1]([C:3]([C:4]([C:2](=[O:9])[H:13])([H:16])[H:17])([H:14])[H:15])([N:6]([C:5]([H:18])([H:19])[H:20])[H:12])([O:7][H:10])[O:8][H:11]>>[C:1]1([O:7][H:10])([O:8][H:11])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:2]([O:9][H:12])([H:13])[N:6]1[C:5]([H:18])([H:19])[H:20],35.98147750000507
MR_49244_0,[C:1]1([C:3]([H:10])([H:11])[H:12])([C:6](=[C:7]([H:19])[H:20])[H:9])[C:2]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[O:8]1>>[C:1]([C:2]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6](=[C:7]([H:19])[H:20])[H:9])([C:3]([H:10])([H:11])[H:12])=[O:8],53.26157250000051
MR_222954_1,[C:1](=[C:4]([N:7]([C:3]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])[O:6][H:8])[H:9])([H:10])[H:11]>>[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])(/[C:4](=[N:7]\[O:6][H:8])[H:9])([H:10])[H:11],71.14908749999614
MR_308628_2,[C:1](/[C:4]([C:3]([H:14])([H:15])[H:16])=[N:7]/[C:2]([H:11])([H:12])[H:13])([O:5][H:8])([O:6][H:9])[H:10]>>[C@@:1]1([O:5][H:8])([H:10])[C@@:4]([C:3]([H:14])([H:15])[H:16])([O:6][H:9])[N:7]1[C:2]([H:11])([H:12])[H:13],64.04264999999654
MR_140395_1,[C:1]([C:4]([N:2](/[C:3]([N:5]([H:10])[H:11])=[N:8]/[H:12])[O:7][H:9])=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([C:4](=[C:6]([H:16])[H:17])[N:8](/[C:3](=[N:2]\[O:7][H:9])[N:5]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15],52.50480750002069
MR_596708_1,[C:1]([C:2]([O:6][H:9])=[O:7])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[C:5](=[O:8])[H:14]>>[C:1](=[C:2]([O:6][H:9])[O:7][C:5](=[O:8])[H:14])([N:3]([H:10])[H:11])[N:4]([H:12])[H:13],54.28628000001723
MR_279942_2,[C:1](=[C:2]([N:4]([H:11])[H:12])\[C:5](=[N:8]\[H:13])[H:14])(\[N:3]([H:9])[H:10])[N:7]=[C:6]([H:15])[H:16]>>[C:1](=[C:2](/[N:4]([H:11])[H:12])[N:7]=[C:6]([H:15])[H:16])([N:3]([H:9])[H:10])/[C:5](=[N:8]/[H:13])[H:14],65.11692999995944
MR_101284_0,[C:1]([C:5](/[C:3](=[N:7]\[H:9])[H:10])(/[C:4](=[N:2]\[O:6][H:8])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:5](=[C:4](\[N:2](/[C:3](=[N:7]\[H:9])[H:10])[O:6][H:8])[H:11])[H:12])([H:13])([H:14])[H:15],71.54190250000312
MR_380187_0,[C:1](=[C:3]([H:16])[H:17])([O:6][C:2]([C:4]([N:5]([H:11])[H:12])([N:8]([H:13])[H:18])[H:10])([H:14])[H:15])[O:7][H:9]>>[C:1]([C:3]([H:16])([H:17])[H:18])([O:6][C:2](/[C:4]([N:5]([H:11])[H:12])=[N:8]/[H:13])([H:14])[H:15])([O:7][H:9])[H:10],57.31710499999835
MR_275206_0,[C:1](/[C:2]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:14])([N:3]([H:8])[H:9])=[O:7]>>[C:1]1([N:3]([H:8])[H:9])=[C:2]([N:4]([H:10])[H:11])[C:6]([N:5]([H:12])[H:13])([H:14])[O:7]1,46.07481500002535
MR_566030_2,[C@@:1]([C:2]([O:5][H:10])([H:12])[H:13])([C:3]([N:6][O:7])=[O:8])([O:4][H:9])[H:11]>>[C@:1]([C:3]([C:2]([O:5][H:10])([H:12])[H:13])=[O:8])([O:4][H:9])([N:6]=[O:7])[H:11],47.21058999997567
MR_397787_0,[C:1]([O:2][O:4][H:7])([O:3][O:5][H:6])([H:8])[H:9]>>[C:1]([O:2][O:3][O:5][H:6])([O:4][H:7])([H:8])[H:9],63.36432249999703
MR_618935_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:5](=[O:8])[H:11])(/[N:7]=[C:4](/[C:2]([H:12])([H:13])[H:14])[O:6][H:9])[H:10]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[N:7]\[C:4]([C:2]([H:12])([H:13])[H:14])([C:5](=[O:8])[H:11])[O:6][H:9])[H:10],69.81439499997734
MR_519502_2,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])(/[C:5]([N:6]([H:12])[H:13])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])([O:8][H:10])[H:11]>>[C:1](=[C:5](/[N:6]([H:12])[H:13])[C:7]([C:3]([H:18])([H:19])[H:20])([C:4]([C:2]([H:15])([H:16])[H:17])=[O:9])[H:14])(\[O:8][H:10])[H:11],49.85926749999422
MR_97584_2,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4](/[C:5](=[N:6]\[C:2]([H:11])([H:12])[H:13])[H:8])=[O:7])([H:9])[H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]1([H:8])[C:4](=[O:7])[N:6]1[C:2]([H:11])([H:12])[H:13])([H:9])[H:10],73.04601999998653
MR_189959_1,[C:1](/[C:2]([C:4]([H:16])([H:17])[H:18])=[N:5]/[H:9])([C:3]([C:6](=[O:8])[H:11])([H:14])[H:15])([N:7]([H:12])[H:13])[H:10]>>[C:1]1([N:7]([H:12])[H:13])([H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[N:5]([H:9])[C:6](=[O:8])[C:3]1([H:14])[H:15],62.81651499998901
MR_102234_2,[C:1]([N:3]([N:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:7])[H:9])[O:6][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:3]([N:4]([O:6][H:8])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:7])([H:10])([H:11])[H:12],46.956452500010926
MR_695101_0,[C@@:1]([C@@:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:10])[H:12])([C:3]([H:15])([H:16])[H:17])([N:5]([N:6]([H:13])[H:14])[O:7][H:9])[H:11]>>[C@:1]([C:3]([H:15])([H:16])[H:17])([N:5]([C@@:2]([C:4]([H:18])([H:19])[H:20])([O:8][H:10])[H:12])[N:6]([H:13])[H:14])([O:7][H:9])[H:11],63.826790000042166
MR_421787_2,[C:1]([C:2]([C:5](/[C:4](=[N:7]\[H:11])[H:12])([H:13])[H:14])=[O:6])([N:3]([H:9])[H:10])=[O:8]>>[C:1]([C:2](=[C:5]([H:13])[H:14])[O:6]/[C:4](=[N:7]\[H:11])[H:12])([N:3]([H:9])[H:10])=[O:8],64.6569724999793
